US04970224
Ten g of 3-t-butyl-5-(pyrid-2-yl-methylthio)-1H-1,2,4-triazole dihydrochloride, 0.5 g (4.1 mmole) of 1,2,4-triazole dihydrochloride, 0.5 g (4.1 mmole) of 4-dimethylaminopyridine, 10 g (100 mmole) of triethylamine, 3.5 g of dimethylcarbamoyl chloride and 100 ml of THF were refluxed for two hours. The mixture was concentrated in vacuo, and partitioned between ether and water. The organic layer was washed with brine, dried over magnesium sulfate, filtered and the solvent was removed in vacuo to yield 1-dimethylcarbamoyl-3-t-butyl-5-(pyrid-2-yl-methylthio)-1H-1,2,4triazole, an oil.

reactant | 3-t-butyl-5-(pyrid-2-yl-methylthio)-1H-1,2,4-triazole dihydrochloride | Cl.Cl.C(C)(C)(C)C1=NNC(=N1)SCC1=NC=CC=C1
reactant | 1,2,4-triazole dihydrochloride | 4.1 mmole, 0.5 g | Cl.Cl.N1N=CN=C1
reactant | triethylamine | 100 mmole, 10 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 3.5 g | CN(C(=O)Cl)C | C3H6ClNO
catalyst | 4-dimethylaminopyridine | 4.1 mmole, 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-dimethylcarbamoyl-3-t-butyl-5-(pyrid-2-yl-methylthio)-1H-1,2,4triazole | CN(C(=O)N1N=C(N=C1SCC1=NC=CC=C1)C(C)(C)C)C | C15H21N5OS
